US08293754B2
To 150 μL of buffer B (70 mmol/L Tris-HCl, pH7.5; 16.7 mmol/L MgCl2, 33.3 nmol/L [3H]-cGMP) solution containing [3H]-cGMP (specific activity=244.2 GBq/mmol) at a concentration of 33.3 nmol/L, 50 μL of a solution of the compound to be evaluated (formed by dissolving the compound in DMSO and diluting it with distilled water to DMSO concentration of 5%) and 50 μL of the PDE9 protein solution as prepared in the above, as diluted with buffer C (40 mmol/L Tris-HCl, pH7.5, 15 mmol/L benzamidine, 15 mmol/L 2-mercaptoethanol, 1 μg/mL Pepstatin A, 1 μg/mL Leupeptin) by 1,500×, were added under cooling with ice. This mixed solution was incubated at 30° C. for 30 minutes and the enzymatic reaction of PDE9 was terminated by heating the system in boiling water for 90 seconds. Returning the system to room temperature, 50 μL of Snake venom (SIGMA: 1 mg/mL) was added, followed by 10 minutes' incubation at 30° C., to convert the [3H]-5′-GMP produced in the previous reaction to [3H]-guanosine. This reaction solution was passed through a column filled with 1 mL of 0.5 mol/L hydrochloric acid-activated cation-exchange resin (Bio-Rad AG50W-X4 resin, mesh size 200-400) and removed of the unreacted substrate ([3H]-cGMP) by elution with 12 mL of distilled water. Thereafter [3H]-guanosine was eluted with 3 mL of 3 mol/L aqueous ammonia and its radiation activity was measured with liquid scintillation counter.

reactant | Tris-HCl | 70 mmol/L | C(C(CO)(CO)N)O.Cl
reactant | MgCl2 | 16.7 mmol/L | [Mg+2].[Cl-].[Cl-]
reactant | Tris-HCl | 40 mmol/L | C(C(CO)(CO)N)O.Cl
reactant | benzamidine | 15 mmol/L, pH7.5 | C(C1=CC=CC=C1)(=N)N | C7H8N2
reactant | 2-mercaptoethanol | 15 mmol/L | SCCO | C2H6OS
reactant | Pepstatin A | C[C@@H](C(=O)N[C@@H](CC(C)C)[C@H](CC(=O)O)O)NC(=O)C[C@@H]([C@H](CC(C)C)NC(=O)[C@H](C(C)C)NC(=O)[C@H](C(C)C)NC(=O)CC(C)C)O | C34H63N5O9
reactant | Leupeptin | CC(C)C[C@@H](C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCN=C(N)N)C(=O)O)NC(=O)C | C20H38N6O5
reactant | DMSO | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | [3H]-guanosine | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(=O)N=C(N)NC12 | C10H13N5O5
